US07820825B2
A mixture of Boc-pyrrolidino-pyrrolidine (1 g, crude, 4.2 mmol) from step 2 and 2 N HCl in dioxane is stirred at room temperature for 3 h and concentrated to a thick oil. The oil is dissolved in DCM, cooled to 0° C., treated with diisopropylethylamine (5 eq) and 4-(chloromethyl)benzoyl chloride (0.8 g, 4.2 mmol), stirred while warming to room temperature for 2 h, diluted with EtOAc, washed with saturated. NaHCO3, dried over MgSO4 and concentrated in vacuo to give [1,3′]bipyrrolidinyl-1′-yl-(4-chloromethyl-phenyl)-methanone as a brown oil (1.3 g), identified by HPLC and MS [293 m/e (M+H)].

reactant | Boc-pyrrolidino-pyrrolidine | 4.2 mmol, 1 g | C(=O)(OC(C)(C)C)C1N(CCC1)N1CCCC1 | C13H24N2O2
reactant | HCl | 2 N | Cl | ClH
reactant | diisopropylethylamine | 5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(chloromethyl)benzoyl chloride | 4.2 mmol, 0.8 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [1,3′]bipyrrolidinyl-1′-yl-(4-chloromethyl-phenyl)-methanone | 1.3 g | N1(CCCC1)C1CN(CC1)C(=O)C1=CC=C(C=C1)CCl | C16H21ClN2O
